US06172062B2
A stirred solution of the 2,3-dihydrobenzo[1,4]dioxine-5-carboxylic acid (pyridin-4-ylmethyl)amide (1.30 g, 4.8 mmol) and 4-(3-iodopropane-1-sulfonyl)piperazine-1-carboxylic acid tert-butyl ester (prepared from the corresponding chloro compound by treatment with sodium iodide in actone) (2.12 g, 5.1 mmol) in acetonitrile (25 mL) was heated under reflux for 8 hours. The mixture was concentrated in vacuo and the residue was triturated with ethyl acetate. Filtration gave the crude pyridinium iodide which was dissolved in methanol (25 mL) and water (5 mL), and hydrogenated over platinum(IV) oxide (450 mg) at atmospheric pressure for 16 hours. The mixture was filtered through Celite® and the filtrate was partitioned between dichloromethane and aqueous ammonium hydroxide. The dichloromethane was dried (Na2SO4) and evaporated in vacuo. Purification of the residue by silica gel chromatography gave 4-[3-(4-{[2,3-dihydrobenzo[1,4]dioxin-5-carbonyl)amino]methyl}pyridin-1-yl)propane-1-sulfonyl]piperazine-1-carboxylic acid tert-butyl ester (1.05 g, 39%).

reactant | 2,3-dihydrobenzo[1,4]dioxine-5-carboxylic acid (pyridin-4-ylmethyl)amide | 4.8 mmol, 1.30 g | N1=CC=C(C=C1)CNC(=O)C1=CC=CC=2OCCOC21 | C15H14N2O3
reactant | 4-(3-iodopropane-1-sulfonyl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)CCCI | C12H23IN2O4S
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | platinum(IV) oxide | 450 mg | [Pt](=O)=O
product | piperazine-1-carboxylic acid tert-butyl ester | 1.05 g, 39% | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
